US07399760B2
Synthesis of 2-amino-6-(4-chlorophenyl)-1,3-oxazin-4-one
The title compound was prepared from ethyl(4-chloro)benzoylacetate (5.0 g, 22 mmol) (obtained in preparation 2) and methylthiopseudourea.H2SO4 (3.31 g, 12 mmol) by following the procedure described in preparation 4, (0.573 g, 11.6%). MS m/z: 223 (M+).

reactant | ethyl(4-chloro)benzoylacetate | 22 mmol, 5.0 g | C(C)OC(CC(C1=CC=C(C=C1)Cl)=O)=O | C11H11ClO3
reactant | methylthiopseudourea | CNC(S)=N | C2H6N2S
reactant | H2SO4 | 12 mmol, 3.31 g | OS(=O)(=O)O | H2O4S
product | 2-amino-6-(4-chlorophenyl)-1,3-oxazin-4-one | NC=1OC(=CC(N1)=O)C1=CC=C(C=C1)Cl | C10H7ClN2O2
